US08293735B2
4-Bromo-1H-indole-2-carbonitrile
Phosphorous oxychloride (1.9 mL, 20 mmol) was added to a suspension of 4-bromo-1H-indole-2-carboxylic acid amide (1.32 g, 5.5 mmol.) in toluene (10 mL) and the mixture was stirred at reflux for 45 min. On cooling, the mixture was poured into an aqueous Na2CO3 solution (sat., 50 mL) and the mixture stirred until effervescence had subsided. The layers were separated, the aqueous phase extracted with EtOAc and the combined organic layers dried (MgSO4) and evaporated to dryness. The crude material was purified by column chromatography to afford the title compound as a solid (1.00 g, 82%).

reactant | Phosphorous oxychloride | 20 mmol, 1.9 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-bromo-1H-indole-2-carboxylic acid amide | 5.5 mmol, 1.32 g | BrC1=C2C=C(NC2=CC=C1)C(=O)N | C9H7BrN2O
reactant | Na2CO3 | 50 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Bromo-1H-indole-2-carbonitrile | 1.00 g, 82% | BrC1=C2C=C(NC2=CC=C1)C#N | C9H5BrN2
